US20010027196A1
2-Amino-4-phenyl-6-piperidin-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfonyl-6-phenyl-pyrimidine-5-carbonitrile and piperidine in DME. EI-MS m/e (%): 279 (M+, 32), 278 ([M—H]+, 100).

reactant | 2-amino-4-methanesulfonyl-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)(=O)C)C#N)C1=CC=CC=C1 | C12H10N4O2S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-phenyl-6-piperidin-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC=CC=C1)C#N)N1CCCCC1 | C16H17N5
